US07550474B2
m. N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide hydrochloride
A solution of N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide (1.01 g, 2.24 mmol), as prepared in the previous step, dissolved into CH3CN (25 mL) was treated with 2.0 mL, 2.425 M HCl/CH3CN. The product (900 mg) was collected by filtration and recrystallized from EtOAc/MeOH to afford the final product as a pale yellow solid (800 mg, 1.65 mmol, 74% yield). 1H NMR (300 Hz, CDCl3) δ 8.51 (s, 1H), 7.78-7.76 (m, 1H), 7.60 (d, J=8.0 Hz, 1H), 7.31-7.28 (m, 1H), 6.85 (t, J=8.6 Hz, 1H); 4.10 (t, J=14.2 Hz, 2H), 3.94 (t, J=5.3 Hz, 2H), 3.75 (d, J=1.65, 2H), 3.51 (t, J=5.6 Hz, 2H), 2.42 (s, 3H); LC/MS (m/z) [M+1]+ 450.2 (calculated for C20H23F3N7O2, 450.4). Elem. Anal. Calc. for free base •1.1 HCl•0.22H2O: C, 48.35; H, 4.73; N, 19.73. Found: C, 48.44; H, 4.47; N, 19.61; Cl, 7.95. Karl Fischer % water: 0.86.

reactant | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide | 2.24 mmol, 1.01 g | C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=C(C=C1)C)(F)F)F)=O | C20H22F3N7O2
reactant | HCl CH3CN | 2.425 M, 2.0 mL | Cl.CC#N
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide hydrochloride | 1.65 mmol, 800 mg, 74% yield | Cl.C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=C(C=C1)C)(F)F)F)=O | InChI=1S/C20H22F3N7O2.ClH/c1-12-2-5-16(28-10-12)20(22,23)11-29-15-4-3-13(9-24)14(18(15)21)8-17(31)27-6-7-32-30-19(25)26;/h2-5,10,29H,6-8,11H2,1H3,(H,27,31)(H4,25,26,30);1H
